US05756817
In a 100 mL flask equipped with magnetic stirrer, N-benzyloxycarbonyl-m-fluorophenylalaninol (0.007 mole, 2.12 g) was dissolved in 50 ml of THF and was added with 1,1'-carbonyldiimidazole (0.007 mol, 1.14 g) at 0° C. The reaction mixture was stirred at room temperature for 2 hours, followed by the injection of ammonia at 0° C. for 30 min. Following elevating to room temperature, water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, dried over magnesium sulfate and distilled in vacuo, to give a solid. This was recrystalized in a solution mixture of n-hexane and diethyl ether, to produce 2.18 g of O-carbamoyl-N-benzyloxycarbonyl-m-fluorophenylalaninol: Yield 91%.

reactant | N-benzyloxycarbonyl-m-fluorophenylalaninol | 0.007 mole, 2.12 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC(=CC=C1)F)CO | C17H18FNO3
reactant | 1,1'-carbonyldiimidazole | 0.007 mol, 1.14 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | O-carbamoyl-N-benzyloxycarbonyl-m-fluorophenylalaninol | 2.18 g, Yield 91% | C(N)(=O)OC[C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)F | C18H19FN2O4
